US04806685
Preparation of (E)-1,2-diphenyl-3,3,3-trifluoro-1-[4-(2-pyrrolidinoethoxy)-phenyl]-propen
2.72 g (8 mmoles) of (E)-1,2-diphenyl-3,3,3-trifluoro-1-(4-hydroxyphenyl)-propene, prepared as described in Example 26, are reacted in xylene with sodium hydride and then with 2-chloroethyl-pyrrolidine as described in Example 26. The product is crystallized from hexane. 2.15 g (61.4%) of the desired compound are obtained; m.p.: 84.5°-86° C.

reactant | (E)-1,2-diphenyl-3,3,3-trifluoro-1-(4-hydroxyphenyl)-propene | 8 mmoles, 2.72 g | C1(=CC=CC=C1)/C(=C(\C(F)(F)F)/C1=CC=CC=C1)/C1=CC=C(C=C1)O | C21H15F3O
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloroethyl-pyrrolidine | ClCCN1CCCC1 | C6H12ClN
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | (E)-1,2-diphenyl-3,3,3-trifluoro-1-[4-(2-pyrrolidinoethoxy)-phenyl]-propen | 2.15 g, 61.4% | C1(=CC=CC=C1)/C(=C(\C(F)(F)F)/C1=CC=CC=C1)/C1=CC=C(C=C1)OCCN1CCCC1 | C27H26F3NO
